US07144885B2
A solution of 2-hydroxy-5-hydroxymethoxy-benzonitrile (0.10 g, 0.61 mmol), 2,2′,4′-trichloroacetophenone (0.16 g, 0.74 mmol, 1.2 eq) and potassium carbonate (0.13 g, 0.92 mmol, 1.5 eq) in 1 mL DMF was stirred overnight at 80° C. The reaction mixture was then partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried with sodium sulfate and filtered through a plug of silica. Concentration in vacuo provided an orange solid, purification of which by RP-HPLC (H2O-MeCN gradient) provided 0.13 g (61%) of (7-amino-1,3,5-trioxa-s-indacen-6-yl)-(2,4-dichloro-phenyl)-methanone as a yellow solid. 1H-NMR (DMSO-d6) δ 7.70–7.69 (m, 1 H), 7.51–7.49, (m 2H), 7.42, (s, 1H) 7.30 (bs, 2H), 7.03 (s, 1H), 6.07 (s, 2H); MS LC-MS (MH+=350.2/352.1), LC-MS RT=3.21 min.

reactant | 2-hydroxy-5-hydroxymethoxy-benzonitrile | 0.61 mmol, 0.10 g | OC1=C(C#N)C=C(C=C1)OCO | C8H7NO3
reactant | 2,2′,4′-trichloroacetophenone | 0.74 mmol, 0.16 g, 1.2 eq | ClCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl3O
reactant | potassium carbonate | 0.92 mmol, 0.13 g, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (7-amino-1,3,5-trioxa-s-indacen-6-yl)-(2,4-dichloro-phenyl)-methanone | 0.13 g, 61% | NC1=C(OC=2C=C3OCOC3=CC12)C(=O)C1=C(C=C(C=C1)Cl)Cl | C16H9Cl2NO4
